US07713993B2
Synthesis of {4-{2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridin-8-yl}phenyl}dimethylamine
A solution of 4 N hydrochloric acid in ethyl acetate (2.64 mL) was added to tert-butyl N′-[5-chloro-2-(4-dimethylaminophenyl)pentanoyl]hydrazinecarboxylate (106.9 mg), and the reaction solution was stirred at room temperature for four hours. The reaction solution was concentrated under reduced pressure to obtain 5-chloro-2-(4-dimethylaminophenyl)pentanoic acid hydrazide hydrochloride. A solution of ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate hydrochloride (77.6 mg) and triethylamine (0.16 mL) in ethanol (1.25 mL) was added to a solution of the resulting 5-chloro-2-(4-dimethylaminophenyl)pentanoic acid hydrazide hydrochloride and triethylamine (0.291 mL) in ethanol (1.25 mL), and the reaction solution was stirred at 80° C. in a nitrogen atmosphere for 22 hours. The reaction solution was cooled to room temperature, and then the solvent was evaporated from the reaction solution under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the resulting residue, and the organic layer was separated. The resulting organic layer washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane:ethyl acetate=1:1->ethyl acetate->ethyl acetate:methanol=9:1) and further purified by silica gel column chromatography (elution solvent: ethyl acetate->ethyl acetate:methanol=9:1) to obtain 26.6 mg of the title compound. The property values of the compound are as follows.

reactant | ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate hydrochloride | 77.6 mg | Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(OCC)=N
reactant | triethylamine | 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-2-(4-dimethylaminophenyl)pentanoic acid hydrazide hydrochloride | Cl.ClCCCC(C(=O)NN)C1=CC=C(C=C1)N(C)C
reactant | triethylamine | 0.291 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1.25 mL | C(C)O | C2H6O
solvent | ethanol | 1.25 mL | C(C)O | C2H6O
product | {4-{2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridin-8-yl}phenyl}dimethylamine | 26.6 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C1=NN2C(C(CCC2)C2=CC=C(C=C2)N(C)C)=N1 | C27H30N6O
